US08110585B2
ethyl 2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)cyclopropanecarboxylate
Under nitrogen atmosphere, to a suspension of sodium hydride (0.830 g, 20.8 mmol) in dimethyl sulfoxide (10 mL) was added a solution of trimethylsulfoxonium iodide (4.57 g, 20.8 mmol) in dimethyl sulfoxide (35 mL) at 0° C., and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added a solution of ethyl (2E)-3-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)acrylate (4.00 g, 17.3 mmol) in dimethyl sulfoxide (30 mL) at 0° C., and the mixture was stirred at room temperature for 14 hr. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/2) to give the title compound (1.84 g, yield 43%).

reactant | sodium hydride | 20.8 mmol, 0.830 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 20.8 mmol, 4.57 g | [I-].C[S+](=O)(C)C
reactant | ethyl (2E)-3-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)acrylate | 17.3 mmol, 4.00 g | CC1=NN2C(C(=CC=C2)/C=C/C(=O)OCC)=N1 | C12H13N3O2
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 35 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | ethyl 2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)cyclopropanecarboxylate | 1.84 g, yield 43% | CC1=NN2C(C(=CC=C2)C2C(C2)C(=O)OCC)=N1 | C13H15N3O2
